US07071175B1
(e) 3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-pentanoic acid
Hydrochloric acid (38%, 4 mL) was added to 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-pentanoic acid ethyl ester (0.041 g, 0.1 mmol) under argon and the mixture was heated to reflux for 4 h. Concentration under reduced pressure and drying (45° C., 0.3 mbar) afforded the title compound as the hydrochloride salt (0.027 mg, 97%).

reactant | Hydrochloric acid | 4 mL | Cl | ClH
reactant | 2-acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl)-pentanoic acid ethyl ester | 0.1 mmol, 0.041 g | C(C)OC(C(C(CC)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C20H30N2O5S
product | 3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-pentanoic acid | NC1=CC=C(C=N1)C(C(C(=O)O)CS)CC | C11H16N2O2S
